US07951950B2
A round bottom flask with magnetic stirrer was charged with 3-methyl-isoxazole-5-carboxylic acid ethyl ester (900 mg, 5.8 mmol) in tetrahydrofuran (2.0 mL). To the reaction was added a solution of sodium hydroxide (465 mg, 11.6 mmol) in water (2 mL), followed by methanol (4 mL). The reaction was stirred at room temperature for 18-20 hours under an argon atmosphere. The reaction was transferred to a separatory funnel and the pH adjusted to 2 via addition of 1N hydrochloric acid. The mixture was extracted with ethyl acetate (3×35 mL) and the combined extractions were washed with brine (1×50 mL), dried over magnesium sulfate, and filtered. The filtrate was concentrated in vacuo to yield 3-methyl-isoxazole-5-carboxylic acid as a white solid (660 mg, 90%). The solid was used without purification in the next reaction.

reactant | 3-methyl-isoxazole-5-carboxylic acid ethyl ester | 5.8 mmol, 900 mg | C(C)OC(=O)C1=CC(=NO1)C | C7H9NO3
reactant | sodium hydroxide | 11.6 mmol, 465 mg | [OH-].[Na+]
reactant | methanol | 4 mL | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-methyl-isoxazole-5-carboxylic acid | 660 mg, 90% | CC1=NOC(=C1)C(=O)O | C5H5NO3
